### PR TITLE
Add some theorems in Strata/DL/Imperative

### PR DESCRIPTION
**Pull request by thanhnguyen-aws**
*Description of changes:* This PR add some theorems in Strata/DL/Imperative. 

I am exploring Strata and practicing writing some simple proofs. Please give me some feedback after you take a look.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/DL/Imperative/StmtSemantics.lean [hunk 1]
```diff
@@ -78,6 +78,30 @@ inductive EvalBlock (P : PureExpr) (Cmd : Type) (EvalCmd : EvalCmdParam P Cmd)
 
 end
 
+theorem eval_stmts_singleton
+  [HasVarsImp P (List (Stmt P (Cmd P)))] [HasVarsImp P (Cmd P)] [HasFvar P] [HasVal P] [HasBool P] [HasBoolNeg P] :
+  EvalStmts P (Cmd P) (EvalCmd P) δ δP σ₀ σ [cmd] σ' ↔
+  EvalStmt P (Cmd P) (EvalCmd P) δ δP σ₀ σ cmd σ' :=by
```
Comment (atomb) [inline Strata/DL/Imperative/StmtSemantics.lean]:
```suggestion
  EvalStmt P (Cmd P) (EvalCmd P) δ δP σ₀ σ cmd σ' := by
```

File: Strata/DL/Imperative/StmtSemantics.lean [hunk 2]
```diff
@@ -78,6 +78,30 @@ inductive EvalBlock (P : PureExpr) (Cmd : Type) (EvalCmd : EvalCmdParam P Cmd)
...
+  constructor <;> intro Heval
+  cases Heval with | @stmts_some_sem _ _ _ _ _ σ1 _ _ Heval Hempty =>
+    cases Hempty; assumption
+  apply EvalStmts.stmts_some_sem Heval (EvalStmts.stmts_none_sem)
+
+theorem eval_stmts_concat
+  [HasVarsImp P (List (Stmt P (Cmd P)))] [HasFvar P] [HasVal P] [HasBool P] [HasBoolNeg P] :
+  EvalStmts P (Cmd P) (EvalCmd P) δ δP σ₀ σ cmds1 σ' →
+  EvalStmts P (Cmd P) (EvalCmd P) δ δP σ₀ σ' cmds2 σ'' →
+  EvalStmts P (Cmd P) (EvalCmd P) δ δP σ₀ σ (cmds1 ++ cmds2) σ'' :=by
```
Comment (atomb) [inline Strata/DL/Imperative/StmtSemantics.lean]:
```suggestion
  EvalStmts P (Cmd P) (EvalCmd P) δ δP σ₀ σ (cmds1 ++ cmds2) σ'' := by
```
